US09340556B2
To a suspension of 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (15 g, 29.6 mmol) in Tetrahydrofuran (THF) (100 mL) was added TEA (6.18 mL, 44.3 mmol) and isobutyl chloroformate (5.82 mL, 44.3 mmol). The resulting mixture was stirred at r.t. for 1 h. The mixture was then cooled down to −40° C. and a solution of DIBAL-H (49.3 mL, 73.9 mmol) in toluene (1.5 M) was added. The mixture was stirred at the same temperature for 1.5 h, when LCMS indicated completion of the reaction. The reaction was quenched with sat. NH4Cl (aq.), warmed up to r.t. and concentrated. The mixture was diluted with sat. NH4Cl and extracted with dichloromethane (2×30 mL). The combined organic solution was then dried over sodium sulfate, filtered and concentrated in vacuo to afford 1-ethyl-8-fluoro-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one (10 g, 20.26 mmol, 68.6% yield) as a yellow solid, which was used in the next oxidation step without further purification.

reactant | 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 29.6 mmol, 15 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C28H26FNO7
reactant | isobutyl chloroformate | 44.3 mmol, 5.82 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | DIBAL-H | 73.9 mmol, 49.3 mL | CC(C)C[AlH]CC(C)C
solvent | Tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | toluene | 1.5 M | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-8-fluoro-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)quinolin-4(1H)-one | 20.26 mmol, 10 g, 68.6% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CO | C28H28FNO6
